US05219868
0.05 g of boron trifluoride ether complex was added under ice-cooling conditions to a mixture of 5.0 g of 1-diethoxymethyl-2-nitroiminoimidazolidine, 3.47 g of o-aminobenzotrifluoride and 5 ml of 1,3-dimethyl-2-imidazolidinone. Immediately, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried and concentrated. Ether was added to the resultant oily residue and the resultant crystals were removed by filtration, followed by washing with hot ethyl acetate to give 3.43 g of 1-(2-trifluoromethylphenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | 1-diethoxymethyl-2-nitroiminoimidazolidine | 5.0 g | C(C)OC(N1C(NCC1)=N[N+](=O)[O-])OCC | C8H16N4O4
reactant | o-aminobenzotrifluoride | 3.47 g | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | 1,3-dimethyl-2-imidazolidinone | 5 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | water | O | H2O
product | 1-(2-trifluoromethylphenyliminomethyl)-2-nitroiminoimidazolidine | 3.43 g | FC(C1=C(C=CC=C1)N=CN1C(NCC1)=N[N+](=O)[O-])(F)F | C11H10F3N5O2
